US06180635B2
d) 3-Methyl-1-(2-methylpropyl)-6-(phenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione
Sodium ethoxide (1.96 g) was added to a solution of N′-acetyl-N-(2-methylpropyl)-N-[3-ethoxycarbonyl-5-(phenylmethyl)-2-thienyl]urea (2.90 g) in ethanol (40 ml) under nitrogen. The mixture was stirred for 20 hours then iodomethane (1.80 ml) was added. The mixture was heated to reflux for 3 hours and then allowed to cool to room temperature and evaporated under reduced pressure. The residue was diluted with water and extracted with ethyl acetate twice. The organic extracts were dried over anhydrous magnesium sulfate, filtered and evaporated under reduced pressure. The residue was purified by column chromatography eluting with diethyl ether:isohexane (1:1) to give an oil which was recrystallised from diethyl ether/isohexane to give the title compound (1.70 g).

reactant | Sodium ethoxide | 1.96 g | [O-]CC.[Na+]
reactant | N′-acetyl-N-(2-methylpropyl)-N-[3-ethoxycarbonyl-5-(phenylmethyl)-2-thienyl]urea | 2.90 g | C(C)(=O)NC(N(C=1SC(=CC1C(=O)OCC)CC1=CC=CC=C1)CC(C)C)=O | C21H26N2O4S
reactant | iodomethane | 1.80 ml | IC | CH3I
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 3-Methyl-1-(2-methylpropyl)-6-(phenylmethyl)thieno[2,3-d]pyrimidine-2,4(1H,3H)-dione | 1.70 g | CN1C(N(C2=C(C1=O)C=C(S2)CC2=CC=CC=C2)CC(C)C)=O | C18H20N2O2S
